US09226922B2
1-((1-hydroxycyclopentyl)(phenyl)methyl)urea
A 5 mL microwave vial was charged with 1-(amino(phenyl)methyl)cyclopentanol (191.3 mg, 1.0 mmol), potassium cyanate (406 mg, 5.00 mmol), water (1 ml) and hydrochloric acid (6N, 0.5 ml, 3.00 mmol). The vial was capped and heated to 80° C. for 1 h in a microwave. The contents of the vial were cooled to room temperature, the formed precipitate filtered, washed through with water and dried in a vacuum oven (40° C.). The crude 1-((1-hydroxycyclopentyl)(phenyl)methyl)urea was taken forward without further purification. MS: [M+H]+ m/z 235.

reactant | 1-(amino(phenyl)methyl)cyclopentanol | 1.0 mmol, 191.3 mg | NC(C1(CCCC1)O)C1=CC=CC=C1 | C12H17NO
reactant | potassium cyanate | 5.00 mmol, 406 mg | [O-]C#N.[K+]
reactant | hydrochloric acid | 3.00 mmol, 6N, 0.5 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
product | 1-((1-hydroxycyclopentyl)(phenyl)methyl)urea | OC1(CCCC1)C(NC(=O)N)C1=CC=CC=C1 | C13H18N2O2
